US05614535
In analogy to Example 10, reaction of 3-[4-(4-cyanobenzamidomethyl)phenyl]-2-oxo-5-oxazolidinylcarboxylic acid with hydrogen sulfide gives 3-[4-(4-thiocarbamoylbenzamidomethyl)phenyl]-2-oxo-5-oxazolidinecarboxylic acid, m.p. 105°-110°.

reactant | 3-[4-(4-cyanobenzamidomethyl)phenyl]-2-oxo-5-oxazolidinylcarboxylic acid | C(#N)C1=CC=C(C(=O)NCC2=CC=C(C=C2)N2C(OC(C2)C(=O)O)=O)C=C1 | C19H15N3O5
reactant | hydrogen sulfide | S | H2S
product | 3-[4-(4-thiocarbamoylbenzamidomethyl)phenyl]-2-oxo-5-oxazolidinecarboxylic acid | C(N)(=S)C1=CC=C(C(=O)NCC2=CC=C(C=C2)N2C(OC(C2)C(=O)O)=O)C=C1 | C19H17N3O5S
